US04751225
Excess of gaseous hydrogen chloride was gradually introduced into a solution of 2-[2-(4-phenoxyphenoxy)ethoxy]pyridine (1.54 mg, 5.0 mmol) in toluene (50 ml) with stirring. THe produced white precipitate was collected by filtration, washed with toluene several times and dried to give 2-[2-(4-phenoxyphenoxy)ethoxy]pyridinium hydrochloride (1.65 g) as white crystals. M.P., 138.1° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-[2-(4-phenoxyphenoxy)ethoxy]pyridine | 5.0 mmol, 1.54 mg | O(C1=CC=CC=C1)C1=CC=C(OCCOC2=NC=CC=C2)C=C1 | C19H17NO3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(4-phenoxyphenoxy)ethoxy]pyridinium hydrochloride | 1.65 g | Cl.O(C1=CC=CC=C1)C1=CC=C(OCCOC2=[NH+]C=CC=C2)C=C1 | InChI=1S/C19H17NO3.ClH/c1-2-6-17(7-3-1)23-18-11-9-16(10-12-18)21-14-15-22-19-8-4-5-13-20-19;/h1-13H,14-15H2;1H/p+1
